US06239142B1
Morpholine (1.69 mL) is dissolved in CH2Cl2 (40 mL). Triethylamine (6.8 mL) is added, and the reaction is cooled to 0° C. A solution of 5-nitro-2-thiophenesulfonyl chloride (3.69 g) in CH2Cl2 (25 mL) is then added dropwise. The reaction is stirred at 0° C. for 15 min. and then at room temperature for 30 min. The reaction mixture is concentrated in vacuo, and the resulting brown solid is purified via column chromatography (CH2Cl2). Fractions homogeneous by TLC are combined and concentrated in vacuo to yield 3.52 g (78%) of 2-morpholinosulfonyl-5-nitrothiophene as a yellow solid. 2-morpholinosulfonyl-5-nitrothiophene (3.40 g) and conc. HCl (27 mL) are combined and heated to 40° C. SnCl2.2H2O (7.72 g) is added portion-wise while keeping the reaction temperature between 40-45° C. using an ice bath. After the addition is complete, the reaction is stirred at 40° C. for 1 h. The reaction mixture is cooled to room temperature, diluted with H2O (100 mL), and the solution is adjusted to pH 11 with NH4OH. The aqueous layer is extracted with ethyl acetate (3×250 mL). The combined organic layers are dried with MgSO4, filtered, and concentrated in vacuo to yield 2.83 g of 2-amino-5-morpholinosulfonylthiophene as a brown solid. 2-amino-5-morpholinosulfonylthiophene (2.12 g) and diethylethoxymethylene malonate (1.73 mL) are combined and heated to 135° C. The reaction is stirred at 135° C. for 1 h. The reaction is then cooled for several minutes and is diluted with heptane. The product oils out, so the mixture is concentrated in vacuo and the residue is purified via column chromatography (CH2Cl2:CH3OH, 98:2). Fractions homogeneous by TLC are combined and concentrated in vacuo to yield 1.89 g (53%) of the intermediate malonate as a brown oil. This material is combined with diphenyl ether (5 mL). The reaction mixture is degassed and then heated to reflux. The reaction is stirred at reflux for 1 h. The reaction mixture is allowed to cool for several minutes and is diluted with heptane. The resulting tan solid is filtered off and purified via column chromatography (CH2Cl2, CH2Cl2:CH3OH, 98:2). Fractions homogeneous by TLC are combined and concentrated in vacuo to yield 0.537 g (43%) of 4-hydroxy-2-morpholinosulfonyl-thieno[2,3-b]pyridine-5-carboxylic acid, ethyl ester as a light brown solid. A mixture of 4-hydroxy-2-morpholinosulfonyl-thieno[2,3-b]pyridine-5-carboxylic acid, ethyl ester (0.503 g) and 4-chlorobenzylamine (1.64 mL) is stirred at 190° C. for 1 h. The reaction is then allowed to cool to rt and is diluted with toluene. The resulting precipitate is filtered off and washed with toluene followed by hexanes to yield a tan solid. This material is recrystallized from acetic acid/water then ethanol to yield 0.240 g (38%) of the title compound as a tan solid.

reactant | Morpholine | 1.69 mL | N1CCOCC1 | C4H9NO
reactant | Triethylamine | 6.8 mL | C(C)N(CC)CC | C6H15N
reactant | 5-nitro-2-thiophenesulfonyl chloride | 3.69 g | [N+](=O)([O-])C1=CC=C(S1)S(=O)(=O)Cl | C4H2ClNO4S2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-morpholinosulfonyl-5-nitrothiophene | 3.52 g, 78% | O1CCN(CC1)S(=O)(=O)C=1SC(=CC1)[N+](=O)[O-] | C8H10N2O5S2
